US04639531
A solution of 98.0 g (1 mol) of maleic anhydride in 200 ml of glacial acetic acid is added dropwise over 1 hour to a boiling mixture of 1.7 g (0.01 mol) of 2-phenylaminopyridine and 22.8 g of sodium acetate trihydrate in 100 ml of glacial acetic acid. The mixture is subsequently boiled under reflux for 18 hours. Working up as in Example 1 affords 27.9 g (44.3%) of dimethylmaleic anhydride with a melting point of 91°-93° C.

reactant | maleic anhydride | 1 mol, 98.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | sodium acetate trihydrate | 22.8 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | 2-phenylaminopyridine | 0.01 mol, 1.7 g | C1(=CC=CC=C1)NC1=NC=CC=C1 | C11H10N2
product | dimethylmaleic anhydride | 27.9 g, 44.3% | C/C/1=C(/C(=O)OC1=O)\C | C6H6O3
